Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: UROLOGY
 
Allergies: 
lisinopril / acetaminophen / finasteride
 
Attending: ___.
 
Chief Complaint:
BPH, LUTS
 
Major Surgical or Invasive Procedure:
BIPOLAR TRANSURETHRAL RESECTION PROSTATE, CYSTOSCOPY 

 
History of Present Illness:
___ y/o male with complicated medical history to include 
cognitive impairment/memory loss with BPH, IDDM (w/ insulin 
pump)

 
Past Medical History:
DIABETES TYPE I                                                 
DIABETIC RETINOPATHY                                            
HEALTH MAINTENANCE                                              
MALLET FINGER                                                   
UMBILICAL HERNIA                                                
HYPERTENSION                                                    
ACTINIC KERATOSIS                                               
SEBORRHEIC KERATOSIS                                            
MILD COGNITIVE IMPAIRMENT                                       
MILD COGNITIVE IMPAIRMENT                                       
HIP PAIN                                                        
RHEUMATOID ARTHRITIS                                            
BENIGN PROSTATIC HYPERTROPHY                                    
CONSTIPATION                                                    
BENIGN PROSTATIC HYPERTROPHY  

 
Social History:
___
Family History:
GM with Alzheimer's
Relatives with diabetes
No history of seizures
 
Physical Exam:
WDWN, NAD, AVSS
Abdomen soft, non-distended 
Foley in place, secured to medial thigh with multiple cath 
secures and tape. 
Bilateral lower extremities w/out edema, pitting or pain to deep 
palpation of calves
 
Pertinent Results:
___ 07:59AM BLOOD WBC-9.1# RBC-4.61 Hgb-14.2 Hct-41.9 
MCV-91 MCH-30.8 MCHC-33.9 RDW-13.3 RDWSD-43.9 Plt ___
___ 07:59AM BLOOD Glucose-128* UreaN-8 Creat-0.6 Na-137 
K-4.0 Cl-102 HCO3-25 AnGap-14
 
Brief Hospital Course:
Mr. ___ was admitted to Dr. ___ service after 
bipolar transurethral resection of prostate. No concerning 
intraoperative events occurred; please see dictated operative 
note for details. He patient received ___ antibiotic 
prophylaxis. The patient's postoperative course was 
uncomplicated. He received intravenous antibiotics and 
continuous bladder irrigation overnight. On POD1 the CBI was 
discontinued and Foley catheter was removed with an active 
voiding trial.  Post void residuals were checked and continued 
to rise to over 500cc. His urine was clear and and without 
clots. A coude was replaced but this caused marked distress to 
patient (b/c of his memory impairment) and his wife. Because he 
was voiding we attempted repeat void trial overnight with 
frequent PVR checks and straight catheterization PRN. He 
continued to have high PVRs so again, on POD2, a catheter was 
replaced and secured with multiple devices to minimize risk of 
trauma.  He remained a-febrile throughout his hospital stay.  At 
discharge, the patient had pain well controlled with oral pain 
medications, was tolerating regular diet, ambulating without 
assistance, and with well secured foley catherer. He was given 
pyridium and oral pain medications on discharge and a course of 
antibiotics along with explicit instructions to follow up in 
clinic for repeat void trial in a few days. 
 
Medications on Admission:
Meds:
memantine
methotrexate
tramadol
insulin pump

Allergies:
acetaminophen                                                    

finasteride                                                      

lisinopril  
 
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Polyethylene Glycol 17 g PO DAILY 

 
Discharge Medications:
1.  Ciprofloxacin HCl 500 mg PO Q12H Duration: 1 Dose 
TAKE THAT AM OF YOUR SCHEDULED VOID TRIAL/FOLEY REMOVAL 
RX *ciprofloxacin HCl 500 mg ONE tablet(s) by mouth ONCE Disp 
#*1 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID  
3.  alpha lipoic acid ___ mg oral DAILY  
4.  FoLIC Acid 1 mg PO DAILY  
5.  Memantine 10 mg PO DAILY  
6.  Methotrexate 10 mg PO 1X/WEEK (MO)  
7.  Polyethylene Glycol 17 g PO DAILY  
8.  Tamsulosin 0.4 mg PO EVERY OTHER DAY  
9.  TraMADol 50 mg PO Q6H:PRN pain  
10.INSULIN PUMP
RESUME YOUR INSULIN PUMP SETTINGS PER ___

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
lower urinary tract symptoms
benign prostatic hypertrophy
urinary retention

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
Mental Status: Confused - always.

 
Discharge Instructions:
These steps can help you recover after your procedure. 
_x0095_DO drink plenty of water to flush out the bladder. 
_x0095_DO avoid straining during a bowel movement. Eat 
fiber-containing foods and avoid foods that can cause 
constipation. Ask your doctor if you should take a laxative if 
you do become constipated. 
_x0095_Don't take blood-thinning medications until your doctor says 
it's OK. 
_x0095_Don't do any strenuous activity, such as heavy lifting, for 
four to six weeks or until your doctor says it's OK. 
_x0095_Don't have sex. You'll likely be able to resume sexual 
activity in about four to six weeks. 
_x0095_Don't drive until your doctor says it's OK. ___, you can 
drive once your catheter is removed and you're no longer taking 
prescription pain medications. 

_x0095_You may continue to periodically see small amounts of blood in 
your urine--this is normal and will gradually improve. You may 
have clear or yellow urine that periodically turns pink/red 
throughout the healing process. Generally, the discoloration of 
the urine is _x0093_OK_x0094_ unless it transitions from ___, 
___ Aid to a very dark, thick or _x0093_like tomato juice_x0094_ 
color

_x0095_Resume your pre-admission/home medications EXCEPT as noted. 
You should ALWAYS call to inform, review and discuss any 
medication changes and your post-operative course with your 
primary care team.  

_x0095_Unless otherwise advised, blood thinning medications like 
ASPIRIN should be held until the urine has been clear/yellow for 
at least three days.  Your medication reconciliation will note 
if you may resume aspirin or prescription blood thinners (like 
Coumadin (warfarin), Xarelto, Lovenox, etc.)

_x0095_If needed, you will be prescribed an antibiotic to continue 
after discharge or save until your Foley catheter is removed 
(called a _x0093_trial of void_x0094_ or _x0093_void trial_x0094_).  

_x0095_You may be discharged home with a medication called PYRIDIUM 
that will help with the "burning" pain you may experience when 
voiding. This medication may turn your urine bright orange.

_x0095_Colace has been prescribed to avoid post surgical constipation 
and constipation related to narcotic pain medication. 
Discontinue if loose stool or diarrhea develops. Colace is a 
stool softener, NOT a laxative, and it is available 
over-the-counter 

_x0095_AVOID STRAINING for bowel movements as this may stir up 
bleeding.  Avoid  constipating foods for ___ weeks, and drink 
plenty of fluids to keep hydrated

_x0095_No vigorous physical activity or sports for 4 weeks or until 
otherwise advised

_x0095_Do not lift anything heavier than a phone book (10 pounds) or 
participate in high intensity physical activity (which includes 
intercourse) for a minimum of four weeks or until you are 
cleared by your Urologist in follow-up

_x0095_Acetaminophen (Tylenol) should be your first-line pain 
medication. A narcotic pain medication may also be prescribed 
for breakthrough or moderate pain.  

_x0095_The maximum daily Tylenol/Acetaminophen dose is 3 grams from 
ALL sources. 

_x0095_Do not drive or drink alcohol while taking narcotics and do 
not operate dangerous machinery.  

WHEN YOU ARE DISCHARGED WITH A FOLEY CATHETER:
o-Please also reference the nursing handout and instructions on 
routine care and hygiene

o-Your Foley should be secured to the catheter secure on your 
thigh at ALL times until your follow up with the surgeon.

o-DO NOT allow anyone outside your urologist/team 
representative remove your Foley for any reason.

o-Wear Large Foley bag for majority of time. The leg bag (if 
provided)  is for short-duration periods and the bag must be 
emptied frequently.

o-Do NOT drive if you have a Foley in place (for your 
safety-but of course you may be a passenger
 
Followup Instructions:
___